US05308820
Preparation of N-(3,5-dibromosalicylidene)-(S)-valine piperizide
The desired product was prepared in the same manner as the latter half procedure of Reference Example 1. That is, carbobenzoxy-(S)-valine piperizide (0.32 g, 1 mmol) was hydrogenated and then condensed with 3,5-dibromosalicylaldehyde (0.42 g, 1.5 mmol) to obtain 0.30 g (68%) of the desired N-(3,5-dibromosalicylidene)-(S)-valine piperizide, which was further recrystallized from methanol. m.p. 143.2°-145.4° C. [α]26D +50.1° (c 0.97, CHCl3)

reactant | carbobenzoxy-(S)-valine | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | 3,5-dibromosalicylaldehyde | 1.5 mmol, 0.42 g | BrC1=C(C(C=O)=CC(=C1)Br)O | C7H4Br2O2
product | N-(3,5-dibromosalicylidene)-(S)-valine | 0.30 g, 68% | BrC1=C(C(C=N[C@@H](C(C)C)C(=O)O)=CC(=C1)Br)O | C12H13Br2NO3
